US07709471B2
2-fluoro-4-nitro-benzoyl chloride
2-fluoro-4-nitrobenzoic acid (Fluorochem; 2.5 g, 13.51 mmol) was suspended in toluene (25 mL) and thionyl chloride (2.96 mL, 40.52 mmol) added. The reaction mixture was heated at reflux for 1.5 hours, allowed to cool and evaporated to give the title compound as a yellow liquid which gradually solidified on standing (2.74 g, 100%)

reactant | 2-fluoro-4-nitrobenzoic acid | 13.51 mmol, 2.5 g | FC1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C7H4FNO4
reactant | thionyl chloride | 40.52 mmol, 2.96 mL | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | 2-fluoro-4-nitro-benzoyl chloride | FC1=C(C(=O)Cl)C=CC(=C1)[N+](=O)[O-] | C7H3ClFNO3
